US05157041
A solution of 3.2 g of N-tert.butyl-4(R)-thiazolidinecarboxamide and 5.0 g of 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane in 130 ml of isopropanol was stirred under argon and heated at 90° C. under reflux for 3 days. The solution was evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel using diethyl ethyl/n-hexane (2:1) for the elution. There were obtained 3.47 g of 3-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide. Recrystallization from ethyl acetate gave analytically pure material of melting point 62°-65° C.

reactant | N-tert.butyl-4(R)-thiazolidinecarboxamide | 3.2 g | C(C)(C)(C)NC(=O)[C@H]1NCSC1 | C8H16N2OS
reactant | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 5.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
solvent | isopropanol | 130 ml | C(C)(C)O | C3H8O
product | 3-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-4(R)-thiazolidinecarboxamide | 3.47 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1CSC[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C26H35N3O4S
